*****
* Library of SGS-THOMSON Transil models
*
* Date     : 9/11/98
*
* Models are only available for ambient temperature of 27°C
*
* UNIDIRECTIONAL TRANSIL
*****
.SUBCKT TRANSIL  Anode  Cathode  { IRM=1u VBRnom=12  VBRmax=13  IR=1m VCLmax=20  
+ Ipp=100  Cjof=1n ISF=1f  NF=1  RSF=1m  IKFF=1000}
* IRM		Stand-off current at VRM
* VBR		Breakdown voltage
* IR		Reverse current at VBR
* VCL		Clamping voltage
* Ipp		Surge current
* Cjo		junction capacitance at 0V
* IS		Saturation current
* N			Emission coefficient
* RS		Serie résistance
* IKF		High injection knee current
Drev    A_int    Cathode    TRANSR
Dfwd   Anode   Cathode    TRANSF
Dr       A_int    Anode       DTRANS
**** REVERSE BEHAVIOR ****
.MODEL TRANSR D(RS={(VCLmax-VBRmax)/Ipp};ISR={IRM/2}   
+ BV={VBRnom}  IBV={IR}
+ Cjo=1p  M=.3333  VJ=.6;IKF=1000  
+ TT=1u );ISR=1n  
**** FORWARD BEHAVIOR ****
**** JUNCTION CAPACITANCE BEHAVIOR Cj(VR) ****
.MODEL TRANSF D(
+ N={NF}  RS={RSF}  ;IKF={IKFF};ISR={ISF}  
+ Cjo={Cjof}  M=.3333  VJ=0.6  ;ISR=1.000E-21
+ BV=1000  IBV=100u  TT=1u )
.MODEL DTRANS D(
+ N=.01  RS=1u  Cjo=1p;IKF=1000;ISR=1n    
+ M=.3333  VJ=.6  BV=1000  IBV=100u;ISR=1n  
+ TT=1u )
.ENDS
**** BIDIRECTIONAL TRANSIL ****
**** PARAMETERS DESCRIPTION ****
**** LOW VOLTAGES ****
*****
.SUBCKT TRANSILB   Anode1  Anode2 {IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n ISBF=1f  NBF=1}
**** SCHEMATICS DESCRIPTION ****
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS
**** REVERSE BEHAVIOR ****
.MODEL TRANSR D(
+ RS={(VCLmax-VBRmax)/Ipp};ISR={IRM/2}   
+ BV={VBRnom}  IBV={IR}
+ Cjo=1p  M=.3333  VJ=.6;IKF=1000  
+ TT=1u );ISR=1n  
**** JUNCTION CAPACITANCE BEHAVIOR ****
.MODEL TRANSBF D(
+ N={NBF}  RS=1u  ;IKF=1000;ISR={ISBF}  
+ Cjo={Cjof}  M=.3333  VJ=.6  ;ISR=1p
+ BV=1000  IBV=100u  TT=1u )
.MODEL DTRANS D(
+ N=.01  RS=1u  Cjo=1p;IKF=1000;ISR=1n    
+ M=.3333  VJ=.6  BV=1000  IBV=100u;ISR=1n  
+ TT=1u )
.ENDS
**** HIGH VOLTAGES ****
*****
.SUBCKT TRANSILBHT   Anode1  Anode2 {IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n}
**** SCHEMATICS DESCRIPTION ****
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS
**** REVERSE BEHAVIOR ****
.MODEL TRANSR D(
+ RS={(VCLmax-VBRmax)/Ipp};ISR={IRM/2}   
+ BV={VBRnom}  IBV={IR}
+ Cjo=1p  M=.3333  VJ=.6;IKF=1000  
+ TT=1u );ISR=1p  
**** JUNCTION CAPACITANCE BEHAVIOR ****
.MODEL TRANSBF D(
+ N=1  RS=1m  ;IKF=1000;ISR=1p  
+ Cjo={Cjof}  M=.3333  VJ=.6  ;ISR=1p
+ BV=1000  IBV=100u  TT=1u )
.MODEL DTRANS D(
+ N=1  RS=1m  Cjo=1p;IKF=1000;ISR=1p    
+ M=.3333  VJ=.6  BV=1000  IBV=100u;ISR=1p  
+ TT=1u )
.ENDS
**** TRANSILS MODELS ****
****
*	1.5KE FAMILY	*
****
*****
*SRC=KE440A;KE440A;TRANSIL;SGS-Thomson;
*SYM=TRANSIL
.SUBCKT KE440A  Anode  Cathode
X1  Anode  Cathode  TRANSIL {IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=13  Cjof=360p
+ ISF=277.5f  NF=1.076  RSF=6.939m  };IKFF=17.55
.ENDS
*INCLUDE TRANSIL.LIB
*****
*SRC=KE440CA;KE440CA;TRANSIL;SGS-Thomson;
*SYM=TRANSIL
.SUBCKT KE440CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT {IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=13  Cjof=360p}
.ENDS
*INCLUDE TRANSIL.LIB
****
*				BZW04 FAMILY 				*
*****
*SRC=BZW04-376;BZW04-376;TRANSIL;SGS-Thomson;
*SYM=TRANSIL
.SUBCKT BZW04-376  Anode  Cathode
X1  Anode  Cathode  TRANSIL {IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=3  Cjof=70p
+ ISF=23.63f   NF=2.031  RSF=26.31m   };IKFF=49.83
.ENDS
*INCLUDE TRANSIL.LIB
*****
*SRC=BZW04-376B;BZW04-376B;TRANSIL;SGS-Thomson;
*SYM=TRANSIL
.SUBCKT BZW04-376B  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT {IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=3  Cjof=70p}
.ENDS
*INCLUDE TRANSIL.LIB
****
*				BZW06 FAMILY				*
*****
*SRC=BZW06-376;BZW06-376;TRANSIL;SGS-Thomson;
*SYM=TRANSIL
.SUBCKT BZW06-376  Anode  Cathode
X1  Anode  Cathode  TRANSIL {IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=5.2  Cjof=350p
+ ISF=27.04f   NF=2.032  RSF=27.38m   };IKFF=41.7
.ENDS
*INCLUDE TRANSIL.LIB
*****
*SRC=BZW06-376B;BZW06-376B;TRANSIL;SGS-Thomson;
*SYM=TRANSIL
.SUBCKT BZW06-376B  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT {IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=5.2  Cjof=350p}
.ENDS
*INCLUDE TRANSIL.LIB
****
*				P6KE FAMILY					*
*****
*SRC=P6KE440A;P6KE440A;TRANSIL;SGS-Thomson;
*SYM=TRANSIL
.SUBCKT P6KE440A  Anode  Cathode
X1  Anode  Cathode  TRANSIL {IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=5.2  Cjof=350p
+ ISF=27.04f   NF=2.032  RSF=27.38m   };IKFF=41.7
.ENDS
*INCLUDE TRANSIL.LIB
*****
*SRC=P6KE440CA;P6KE440CA;TRANSIL;SGS-Thomson;
*SYM=TRANSIL
.SUBCKT P6KE440CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT {IRM=5u  VBRnom=440  VBRmax=462
+ IR=1m  VCLmax=776  Ipp=5.2  Cjof=350p}
.ENDS
*INCLUDE TRANSIL.LIB
*****
